US07105707B2
The procedure was identical to Example 1, with the exception that 4-cyanopyridine (0.208 g; 2.00 mmol) was used as a substrate instead of benzonitrile and lithium trimethylacetylide (8.00 ml; 4.00 mmol; 0.5 M in THF) was used instead of the in situ derived lithium acetylide made from trimethylsilylacetylene and n-butyllithium. GC analysis of the organic phase of the hydrolyzed reaction sample after 20 h at 65° C. showed the presence of 1.12 mmol (56% yield) of 4-(trimethylsilylethynyl)pyridine and no remaining 3-cyanopyridine in the reaction mixture.

reactant | 4-cyanopyridine | 2.00 mmol, 0.208 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | lithium | [Li] | Li
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 4-(trimethylsilylethynyl)pyridine | 1.12 mmol, 56% yield | C[Si](C)(C)C#CC1=CC=NC=C1 | C10H13NSi
